### PR TITLE
Smaller ipc sorries

### PR DESCRIPTION
**Pull request by michaelmcinerney**

### CODE REVIEW

**Review by pierzchalski — APPROVED** [review]

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -1483,8 +1483,75 @@ lemma make_arch_fault_msg_corres:
      apply (wp+, auto)
   done
 
+lemma schedContextUpdateConsumed_corres:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:1486]: After looking at Mitch's PR ("activate_thread...") it would be much better to factor out the `sc_consumed_update/ scConsumedUpdate` corres rule to reduce the duplication in this proof significantly. If we decide to merge my PR first, I will do that

**Review by corlewis — APPROVED** [review]

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -1351,7 +1351,7 @@ lemma set_reply_corres: (* for reply update that doesn't touch the reply stack *
   qed
 
 lemma setSchedContext_no_stack_update_corres:
-  "\<lbrakk> \<forall>sc n sc'. sc_relation sc n sc' \<longrightarrow> sc_relation (f sc) n (f' sc');
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:1354]: This makes sense. Not sure how this forall ended up being here...

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -2651,49 +2760,63 @@ lemma cancelAllIPC_not_rct[wp]:
...
+   \<lbrace>\<lambda>_ s. ksSchedulerAction s = ResumeCurrentThread \<longrightarrow> ksCurThread s \<noteq> t'\<rbrace>"
+  apply (clarsimp simp: replyRemoveTCB_def)
+  apply (rule hoare_seq_ext_skip, solves \<open>wpsimp wp: getEndpoint_wp\<close>)+
+  apply (rule hoare_seq_ext_skip)
+   apply (clarsimp simp: when_def)
+   apply (intro conjI impI)
+    apply (wpsimp wp: set_sc'.set_wp set_reply'.set_wp hoare_vcg_imp_lift')+
+  done
+
+(* This is not actually being used currently. I'll keep it here just in case *)
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2802]: maybe add FIXME RT?

**Review by mktnk3 — APPROVED** [review]
Neatly done. Nice corres rules for some new and existing functions. Thanks for catching that the abstract spec for `sched_context_update_consumed` wasn’t up to date.
